US07309701B2
Working as in example 13 for the preparation of ethyl 3-[(3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carbonyl)amino]propionate, but starting with 0.6 g of 3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxylic acid, 60 cm3 of N,N-dimethylformamide, 0.466 g of 1-hydroxybenzotriazole, 0.91 g of (trimethylsilyl)-2-ethoxymethoxy-4-benzylamine, 0.6 cm3 of N,N-diisopropylethylamine and 1.31 g of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate, and after purification by high performance liquid chromatography on a 100×30 mm HyPURITY® 5 μm column, eluting with a mixture increasing from 25% to 95% of acetonitrile/water (containing 0.05% trifluoroacetic acid), 0.16 g of N-(4-hydroxybenzyl)-3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxamide was obtained in the form of a cream-colored solid melting at a temperature above 260° C.

reactant | ethyl 3-[(3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carbonyl)amino]propionate | O=C1NN=C(C=C1C(=O)NCCC(=O)OCC)C1=CC=NC=C1 | C15H16N4O4
reactant | 3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxylic acid | 0.6 g | O=C1NN=C(C=C1C(=O)O)C1=CC=NC=C1 | C10H7N3O3
reactant | 1-hydroxybenzotriazole | 0.466 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-diisopropylethylamine | 0.6 cm3 | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.31 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 60 cm3 | CN(C=O)C | C3H7NO
product | N-(4-hydroxybenzyl)-3-oxo-6-pyridin-4-yl-2,3-dihydropyridazine-4-carboxamide | 0.16 g | OC1=CC=C(CNC(=O)C=2C(NN=C(C2)C2=CC=NC=C2)=O)C=C1 | C17H14N4O3
